US07470807B2
Synthesis of 3-bromo-4-hydroxy-5-nitrobenzaldehyde (Intermediate 26)
A solution of 3-bromo-4-hydroxybenzaldehyde (6.30 g) in acetic acid (45 ml) was added dropwise with 70% nitric acid (5.85 ml) on a water bath, then added with sodium nitrite (62 mg), and further stirred for 2 hours. The reaction mixture was poured into ice water (300 ml), and precipitates were taken by filtration, and washed with water (50 ml×3). The precipitates were dried under reduced pressure for 24 hours to obtain the title compound (Intermediate 26, 5.88 g).

reactant | 3-bromo-4-hydroxybenzaldehyde | 6.30 g | BrC=1C=C(C=O)C=CC1O | C7H5BrO2
reactant | nitric acid | 5.85 ml | [N+](=O)(O)[O-] | HNO3
reactant | sodium nitrite | 62 mg | N(=O)[O-].[Na+]
solvent | acetic acid | 45 ml | C(C)(=O)O | C2H4O2
product | 3-bromo-4-hydroxy-5-nitrobenzaldehyde | 5.88 g | BrC=1C=C(C=O)C=C(C1O)[N+](=O)[O-] | C7H4BrNO4
